US04448991
3.45 g of cyclopropanecarboxylic acid chloride are placed in 50 ml of methylene chloride, whereafter 5.0 g of potassium carbonate are added, and then a solution of 7.0 g of 1-(m-methoxyphenyl)-2-cyclohexene-1-ethylamine in 10 ml of methylene chloride is added dropwise while stirring. The mixture is stirred at room temperature overnight and subsequently at reflux for 30 minutes and cooled. Then, the precipitate is removed by filtration under suction, the filtrate is evaporated, and the oil obtained is taken up in ether. The ethereal solution is washed with 1 N hydrochloric acid and subsequently with water, dried over magnesium sulfate and evaporated, and N-[2-[1-(m-methoxyphenyl)-2-cyclohexen-1-yl]ethyl]-cyclopropanecarboxamide remains as the residue. 6.5 g of this compound, dissolved in 30 ml of absolute tetrahydrofuran, are added dropwise to a dispersion of 6 g of lithium aluminum hydride in 100 ml of absolute tetrahydrofuran. The mixture is boiled at reflux for 3 hours, cooled and worked-up in the usual manner, and there is obtained N-(cyclopropylmethyl)-1-(m-methoxyphenyl)-2-cyclohexene-1-ethylamine, the hydrochloride of which melts at 141°-142° C.

reactant | cyclopropanecarboxylic acid chloride | 3.45 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(m-methoxyphenyl)-2-cyclohexene-1-ethylamine | 7.0 g | COC=1C=C(C=CC1)C1(C=CCCC1)CCN | C15H21NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(cyclopropylmethyl)-1-(m-methoxyphenyl)-2-cyclohexene-1-ethylamine | C1(CC1)CNCCC1(C=CCCC1)C1=CC(=CC=C1)OC | C19H27NO
